US06329381B1
6-Amino-9-benzyl-2-(3-hydroxypropoxy)purine
Sodium (80 mg, 3.5 mmol) in 3 ml of 1,3-propanediol was added 6-amino-9-benzyl-2-chloropurine (235 mg, 0.90 mmol). The mixture was heated at 100° C. for 3 hours. The reaction mixture was concentrated in vacuo to dryness. To the residue was added water and the mixture was extracted with chloroform. The organic layer was dried on sodium sulfate and the solvent was removed. The residue was purified with silica gel chromatography (3% methanol/chloroform) to give the subject compound (137 mg, yield 51%).

reactant | Sodium | 3.5 mmol, 80 mg | [Na] | Na
reactant | 6-amino-9-benzyl-2-chloropurine | 0.90 mmol, 235 mg | NC1=C2N=CN(C2=NC(=N1)Cl)CC1=CC=CC=C1 | C12H10ClN5
reactant | 1,3-propanediol | 3 ml | C(CCO)O | C3H8O2
product | 6-Amino-9-benzyl-2-(3-hydroxypropoxy)purine | 137 mg, yield 51% | NC1=C2N=CN(C2=NC(=N1)OCCCO)CC1=CC=CC=C1 | C15H17N5O2
